US07842688B2
c) tert-Butyl [3-(2,5-difluorophenoxy)propyl]carbamate
The solution of 2.50 g of 2,5-difluorophenol, 3-(Boc-amino)-1-propanol, 7.26 g of triphenylphosphine and tetrahydrofuran (30 ml) is cooled to 0° C. and admixed dropwise with 5.65 ml of diisopropyl azodicarboxylate. The reaction mixture is stirred at room temperature for a further 2 hours and subsequently concentrated by evaporation. The title compound is obtained as a yellowish solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.34 (1:2 EtOAc-heptane); Rt=4.69.

reactant | 2,5-difluorophenol | 2.50 g | FC1=C(C=C(C=C1)F)O | C6H4F2O
reactant | 3-(Boc-amino)-1-propanol | C(=O)(OC(C)(C)C)NCCCO | C8H17NO3
reactant | triphenylphosphine | 7.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 5.65 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | tert-Butyl [3-(2,5-difluorophenoxy)propyl]carbamate | FC1=C(OCCCNC(OC(C)(C)C)=O)C=C(C=C1)F | C14H19F2NO3
